US06794400B2
4-Cyclohexyl-1-(pyridin-2-ylmethylidene)thiosemicarbazide
The title compound was prepared from a mixture of 4-cyclohexyl-3-thiosemicarbazide (100 mg, 0.577 mmol) and 2-pyridinecarboxaldehyde (55 μL, 0.577 mmol) similar to Example 3 and isolated as a white solid (40 mg, 26%). 1H NMR (CDCl3): 9.16 (s, 1H), 8.65-8.63 (m, 1H), 7.87-7.85 (m, 2H), 7.78-7.73 (m, 1H), 7.38 (d, J=7.2 Hz, 1H), 7.34-7.27 (m, 1H), 4.344.27 (m, 1H), 2.18-2.12 (m, 2H), 1.82-1.75 (m, 2H), 1.50-1.22 (m, 6H).

reactant | 4-cyclohexyl-3-thiosemicarbazide | 0.577 mmol, 100 mg | C1(CCCCC1)NC(NN)=S | C7H15N3S
reactant | 2-pyridinecarboxaldehyde | 0.577 mmol, 55 μL | N1=C(C=CC=C1)C=O | C6H5NO
product | 4-Cyclohexyl-1-(pyridin-2-ylmethylidene)thiosemicarbazide | C1(CCCCC1)NC(NN=CC1=NC=CC=C1)=S | C13H18N4S
